US06482835B2
In a mixed solvent of 2 ml of water and 5 ml of ethyl acetate is suspended 1.34 g of 2-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-1,3,6,2-dioxazaborocane and to this suspension are added 1.0 g of ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate, 0.55 g of sodium carbonate and 0.05 g of bis(triphenylphosphine)palladium(II) chloride, after which the resulting mixture is heated under reflux for 3 hours in a nitrogen atmosphere. The reaction mixture is added to a mixed solvent of 10 ml of methylene chloride and 10 ml of water, and the organic layer is separated. The organic layer obtained is washed with saturated saline and then dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue thus obtained is recrystallized from ethanol to obtain 1.55 g of ethyl 1-cyclopropyl-8-difluoromethoxy-7-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-4-oxo-1,4-dihydro-3-quinolinecarboxylate.

reactant | 2-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-1,3,6,2-dioxazaborocane | 1.34 g | C[C@H]1N(CC2=CC(=CC=C12)B1OCCNCCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H33BN2O2
reactant | ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.0 g | BrC1=CC=C2C(C(=CN(C2=C1OC(F)F)C1CC1)C(=O)OCC)=O | C16H14BrF2NO4
reactant | sodium carbonate | 0.55 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | ethyl 1-cyclopropyl-8-difluoromethoxy-7-[(1R)-1-methyl-2-trityl-2,3-dihydro-1H-5-isoindolyl]-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 1.55 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN([C@@H](C2=CC1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC | C44H38F2N2O4
